US08232289B2
Preparation 27: 3-Methyl-1-(3-morpholino-2-pyridyl)pyrazole-4-carbaldehyde
A mixture of 1-(3-fluoro-2-pyridyl)-3-methyl-pyrazole-4-carbaldehyde (230 mg, 1.12 mmol) and morpholine (2 mL, 22.93 mmol) is heated under microwave irradiation (temperature 160° C., ramp time: 2 min, hold time: 10 min, potency: 250 W). The excess of morpholine is eliminated in vacuo and the residue is diluted in dichloromethane and washed in saturated aqueous solution of sodium bicarbonate. The organic layer is separated, dried over magnesium sulfate and the solvent evaporated in vacuo. The residue is purified by normal phase Isco chromatography using hexane/ethyl acetate as eluent (from 50 to 100% in ethyl acetate) to yield 72% of the title compound. MS (m/z): 273 (M+1).

reactant | 1-(3-fluoro-2-pyridyl)-3-methyl-pyrazole-4-carbaldehyde | 1.12 mmol, 230 mg | FC=1C(=NC=CC1)N1N=C(C(=C1)C=O)C | C10H8FN3O
reactant | morpholine | 22.93 mmol, 2 mL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Methyl-1-(3-morpholino-2-pyridyl)pyrazole-4-carbaldehyde | 72% | CC1=NN(C=C1C=O)C1=NC=CC=C1N1CCOCC1 | C14H16N4O2
